US08877774B2
Step 2. 4-((1,3-Dioxolan-2-yl)methyl)-N′-hydroxybenzimidamide
To a solution of 4-((1,3-dioxolan-2-yl)methyl)benzonitrile (1.40 g, 7.41 mmol) in ethanol (10 mL), was added 50% aqueous hydroxylamine (5 mL), and the resultant mixture was heated at 80° C. for 16 hours. The solvent was evaporated at reduced pressure, and the residue partitioned between ethyl acetate and brine. The organic phase was removed, and the aqueous phase was extracted with further ethyl acetate (×2). The combined organic extracts were dried with aqueous magnesium sulfate and evaporated at reduced pressure to afford the title compound (1.21 g, 73%).

reactant | 4-((1,3-dioxolan-2-yl)methyl)benzonitrile | 7.41 mmol, 1.40 g | O1C(OCC1)CC1=CC=C(C#N)C=C1 | C11H11NO2
reactant | hydroxylamine | 5 mL | NO | H3NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-((1,3-Dioxolan-2-yl)methyl)-N′-hydroxybenzimidamide | 1.21 g, 73% | O1C(OCC1)CC1=CC=C(C(N)=NO)C=C1 | C11H14N2O3
